US04886814
N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine
Prepared by analogy to Example 24 by reaction of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine with ammonia followed by purification on a silica gel column using ethyl acetate/toluene=8:2 as eluant.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C20H23F3N2O4S
reactant | ammonia | N | H3N
product | N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | NC(=O)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C19H22F3N3O3S
